US08426449B2
Step 1: (3-{2-[(Benzyloxycarbonyl-methyl-amino)-methyl]-4-trifluoromethyl-phenoxy}-phenyl)-acetic acid methyl ester
Prepared according to the procedure described in Example 3, Step 3, using the following starting materials: [3-(2-methylaminomethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester and benzyl chloroformate.

reactant | [3-(2-methylaminomethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CNC)=O | C18H18F3NO3
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (3-{2-[(Benzyloxycarbonyl-methyl-amino)-methyl]-4-trifluoromethyl-phenoxy}-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN(C)C(=O)OCC1=CC=CC=C1)=O | C26H24F3NO5
